US06933322B2
N-{5-[2-(4-Bromo-phenyl)-oxazol-4-ylmethoxy]naphthalen-2-yl}C,C,C-trifluoromethanesulfonamide
Using same procedure as above 2-(4-Bromo-phenyl)-4-Chloromethyloxazole was coupled with 2-Amino-5-naphthol then reacted with triflic anhydride to provide the title compound (0.25 g, 30%) as a white solid, m.p. 205-207° C. 1H NMR (DMSO-d6, 400 MHz): δ 5.28 (s, 2H), 7.19 (d, 1H), 7.39 (d, 1H), 7.47-7.54 (m, 2H), 7.75 (s, 1H), 7.77 (d, 2H), 7.94 (d, 2H), 8.22 (d, 1H), 8.48 (s, 1H). MS [EI, m/z]: 525 [M−H]+. Anal. Calcd. for C21H14BrF3N2O4S: C, 47.83; H, 2.68; N, 5.31. Found: C, 57.66; H, 2.85; N, 5.14.

reactant | 2-(4-Bromo-phenyl)-4-Chloromethyloxazole | BrC1=CC=C(C=C1)C=1OC=C(N1)CCl | C10H7BrClNO
reactant | 2-Amino-5-naphthol | NC1=CC=2C=CC=C(C2C=C1)O | C10H9NO
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
product | N-{5-[2-(4-Bromo-phenyl)-oxazol-4-ylmethoxy]naphthalen-2-yl}C,C,C-trifluoromethanesulfonamide | 0.25 g, 30% | BrC1=CC=C(C=C1)C=1OC=C(N1)COC1=C2C=CC(=CC2=CC=C1)NS(=O)(=O)C(F)(F)F | C21H14BrF3N2O4S
